US06747023B1
2-Ethylpiperazine hydrochloride
At room temperature, concentrated hydrochloric acid (6 ml) and palladium hydroxide (1.1 g) were added to solution (600 ml) of 1,4-dibenzyl-2-ethenylpiperazine (10.9 g)in ethanol, followed by stirring for 12 hours under a hydrogen gas stream of 1 atmospheric pressure. The catalyst was filtered off and the solvent was distilled off under reduced pressure. The resulting residue was solidified using methylene chloride—diethyl ether, followed by washing with diethyl ether. The resulting solid was dried under reduced pressure, whereby the title compound (6.516 g) was obtained as a brown solid.

reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | 1,4-dibenzyl-2-ethenylpiperazine | 600 ml, 10.9 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium hydroxide | 1.1 g | [OH-].[Pd+2].[OH-]
product | 2-Ethylpiperazine hydrochloride | Cl.C(C)C1NCCNC1 | InChI=1S/C6H14N2.ClH/c1-2-6-5-7-3-4-8-6;/h6-8H,2-5H2,1H3;1H
